US08252275B2
B. Preparation of 2,7-di(3-carboxy-propyl)fluorene
In an argon-purged flask 2,7-di(3-carboxy-propionyl)fluorene (12.8 g, 0.035 mol) was suspended in diethylene glycol (150 mL). The flask was placed in a room temperature oil bath then NaOH (14 g, 0.35 mol) and an 80% solution of hydrazine hydrate (13.1 mL, 0.21 mol) were added successively. The reaction mixture was slowly heated to 110° C. and refluxed for approximately two hours. The reaction temperature was raised to 200° C. with removal of water during the heating process. After three hours at 200° C. reaction temperature the reaction was cooled to approximately 60° C. The reaction mixture was carefully poured into water (500 mL) and the mixture was acidified to pH 2 with concentrated HCl. The product was filtered and washed with water. The product was dissolved in warm NaOH solution (0.5M) and precipitated by acidification to pH 2 with HCl. The product was filtered and washed with water (Yield 10.9 g, 92%). 1H-NMR (d6-DMSO): δ (ppm) 12.0 (s, 2H, COOH); 7.8 (m, 2H, Ar); 7.4 (s, 2H, Ar); 7.2 (m, 2H, Ar); 3.9 (s, 2H, CH2); 2.7 (t, 4H, CH2); 2.3 (t, 4H, CH2); 1.8 (m, 4H, CH2).

reactant | 2,7-di(3-carboxy-propionyl)fluorene | 0.035 mol, 12.8 g | C(=O)(O)CCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCC(=O)O)=O | C21H18O6
reactant | NaOH | 0.35 mol, 14 g | [OH-].[Na+]
reactant | hydrazine hydrate | 0.21 mol, 13.1 mL | O.NN
reactant | HCl | Cl | ClH
solvent | diethylene glycol | 150 mL | C(COCCO)O | C4H10O3
solvent | water | 500 mL | O | H2O
product | 2,7-di(3-carboxy-propyl)fluorene | C(=O)(O)CCCC1=CC=2CC3=CC(=CC=C3C2C=C1)CCCC(=O)O | C21H22O4
